US04946842
A stirred mixture of (R)-6-(4-(N-cyano-S-methylisothioureido)phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone and benzylamine in pyridine is heated to afford (R)-6-[4-(N3 -benzyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone.

reactant | (R)-6-(4-(N-cyano-S-methylisothioureido)phenyl)-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(#N)N(C(SC)=N)C1=CC=C(C=C1)C=1[C@@H](CC(NN1)=O)C | C14H15N5OS
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | (R)-6-[4-(N3 -benzyl-N2 -cyanoguanidino)phenyl]-5-methyl-4,5-dihydro-3(2H)-pyridazinone | C(C1=CC=CC=C1)NC(NC1=CC=C(C=C1)C=1[C@@H](CC(NN1)=O)C)=NC#N | C20H20N6O
